US07687510B2
4-{5-Acetyl-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-4-pyrimidinyl}benzonitrile
265 mg (1.3 mmol) N-[3-(trifluoromethyl)phenyl]urea, 131 mg (1.0 mmol) 4-cyano-benzaldehyde, and 100 mg (1.0 mmol) 2,4-pentanedione are suspended in 2 ml of THF, and catalytic amounts of concentrated hydrochloric acid are added. The mixture is stirred at reflux for 18 hours. After cooling down to room temperature, the solvent is removed in vacuo and the residue is purified by column chromatography on silica with cyclohexane/ethyl acetate as eluent.

reactant | N-[3-(trifluoromethyl)phenyl]urea | 1.3 mmol, 265 mg | FC(C=1C=C(C=CC1)NC(=O)N)(F)F | C8H7F3N2O
reactant | 4-cyano-benzaldehyde | 1.0 mmol, 131 mg | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 2,4-pentanedione | 1.0 mmol, 100 mg | CC(CC(C)=O)=O | C5H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-{5-Acetyl-6-methyl-2-oxo-1-[3-(trifluoromethyl)phenyl]-1,2,3,4-tetrahydro-4-pyrimidinyl}benzonitrile | C(C)(=O)C=1C(NC(N(C1C)C1=CC(=CC=C1)C(F)(F)F)=O)C1=CC=C(C#N)C=C1 | C21H16F3N3O2
